US04960902
Step (2) Preparation of 1-Ethyl-1,3,4,9-tetrahydro-7-(trifluoromethoxy)pyrano[3,4-b]indole-1-acetic Acid 3-Oxo-1-isobenzofuranyl Ester
A solution of 1-ethyl-1,3,4,9-tetrahydro-7-(trifluoromethoxy)pyrano[3,4-b]indole-1-acetic acid (0.650 g, 1.89 mmol, prepared according to the procedure of Example 1), 3-bromophthalid (0.402 g, 1.89 mmol) and TEA (0.382 g, 3.79 mmol) in dry THF (60 mL) was refluxed for 4 hours. The solvent was evaporated and the residue was partitioned between water and ether. The extracts were washed with 5% NaHCO3 and brine, dried (MgSO4) and evaporated to dryness. Flash chromatography of the residue (on silica Merck-60, eluant: CHCl3) provided 0.670 g (74.6%) of the pure product (as a mixture of diastereomers) which was recrystallized from ether-hexane, m.p. 150° C. (softening starts at 124° C.).

reactant | 1-ethyl-1,3,4,9-tetrahydro-7-(trifluoromethoxy)pyrano[3,4-b]indole-1-acetic acid | C(C)C1(OCCC2=C1NC1=CC(=CC=C21)OC(F)(F)F)CC(=O)O | C16H16F3NO4
reactant | 3-bromophthalid | 1.89 mmol, 0.402 g | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1-Ethyl-1,3,4,9-tetrahydro-7-(trifluoromethoxy)pyrano[3,4-b]indole-1-acetic Acid 3-Oxo-1-isobenzofuranyl Ester | 0.670 g, 74.6% | O=C1OC(C2=CC=CC=C12)OC(CC1(OCCC2=C1NC1=CC(=CC=C21)OC(F)(F)F)CC)=O | C24H20F3NO6
